US06635657B1
Preparation of N-(5-Chloropyridin-2-yl)-2-[1-(cylopropylmethyl)piperidin-4-ylmethylamino]benzamide
To a small sample of N-(5-chloropyridin-2-yl)-2-(piperidin-4-ylmethylamino)benzamide (0.034 g, 0.1 mmol) weighed out in a 1 mL sealable vial, dichloroethane was added (300 μL), followed by excess of cyclopropanecarboxaldehyde (20 μL, >0.15 mmol) and sodium triacetoxyborohydride (200 μL of a 1.5 M solution in N-methylpyrrolidinone). The vial was capped and placed in a shaker at 70° C. overnight. After an additional 24 heat room temperature, methanol was added (400 μL) and the vial was shaken for a few minutes. The reaction mixture was then applied to a 2 g SCX column, washed with methanol (30 mL) and gravity-eluted with 1 N ammonia in methanol (20 mL). The yellow fractions were combined and concentrated in vacuo to a dry residue (0.040 g, >100%), which was identified as the title compound by LC-MS (Method A).

reactant | N-(5-chloropyridin-2-yl)-2-(piperidin-4-ylmethylamino)benzamide | 0.1 mmol, 0.034 g | ClC=1C=CC(=NC1)NC(C1=C(C=CC=C1)NCC1CCNCC1)=O | C18H21ClN4O
reactant | dichloroethane | ClC(C)Cl | C2H4Cl2
reactant | cyclopropanecarboxaldehyde | >0.15 mmol, 20 μL | C1(CC1)C=O | C4H6O
reactant | sodium triacetoxyborohydride | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | N-methylpyrrolidinone | CN1C(CCC1)=O | C5H9NO
solvent | methanol | CO | CH4O
product | N-(5-Chloropyridin-2-yl)-2-[1-(cylopropylmethyl)piperidin-4-ylmethylamino]benzamide | ClC=1C=CC(=NC1)NC(C1=C(C=CC=C1)NCC1CCN(CC1)CC1CC1)=O | C22H27ClN4O
